US04410465
17.3 parts of 4-dimethylamino-1,1-dicyano-1,3-butadiene and 90 parts of methanol are combined in a stirred autoclave. 16 parts of liquid ammonia are added and the mixture is stirred at 150° C. for 3 hours. The mixture is evaporated down under reduced pressure and, after the addition of ethanol, the precipitate is filtered off with suction and dried. 12.7 parts (91% of theory) of 2-aminonicotine nitrile, of melting point 130° to 132° C. (from ethanol), are obtained.

reactant | 4-dimethylamino-1,1-dicyano-1,3-butadiene | CN(C=CC=C(C#N)C#N)C | C8H9N3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-aminonicotine nitrile | 91% | NC1=C(C#N)C=CC=N1 | C6H5N3
